US09353090B2
To a mixture of 3-bromo-5-methyl-phenol (185 g; 0.940 mol) and K2CO3 (437 g, 3.17 mol) in acetone (2 L) is added MeI (424 g, 2.99 mol). The mixture is stirred at 40° C. for 16 h. The mixture is cooled to ambient temperature, filtered, and concentrated under reduced pressure. After filtration, the mixture is purified by flash silica gel chromatography to afford 1-Bromo-3-methoxy-5-methyl-benzene, D-4-1 (189 g, quant. yield) as a light yellow oil.

reactant | 3-bromo-5-methyl-phenol | 0.940 mol, 185 g | BrC=1C=C(C=C(C1)C)O | C7H7BrO
reactant | K2CO3 | 3.17 mol, 437 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 2.99 mol, 424 g | CI | CH3I
solvent | acetone | 2 L | CC(=O)C | C3H6O
product | 1-Bromo-3-methoxy-5-methyl-benzene | quant. yield | BrC1=CC(=CC(=C1)C)OC | C8H9BrO
